US05284828
To a solution of N-phenylacetyl-L-Leu-D-Trp(CH3)-OBzl (5.9 g) in a mixture of methanol (60 ml), acetic acid (60 ml) and DMF (100 ml) was added 10% palladium on activated carbon (0.6 g). The mixture was stirred for 5 hours at 3 atmospheric pressure of hydrogen at room temperature. The solution was filtered and the filtrate was concentrated in vacuo. The residue was triturated with ether-ethyl acetate to give N-phenylacetyl-L-Leu-D-Trp(CH3)-OH (4.69 g).

reactant | N-phenylacetyl-L-Leu-D-Trp(CH3)-OBzl | 5.9 g | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)OCC1=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C33H37N3O4
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 60 ml | CO | CH4O
catalyst | palladium on activated carbon | 0.6 g | [Pd] | Pd
product | N-phenylacetyl-L-Leu-D-Trp(CH3)-OH | 4.69 g | N([C@@H](CC(C)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C)C(=O)O)C(=O)CC1=CC=CC=C1 | C26H31N3O4
